US06831080B2
Preparation of (S)-N-{1-[3-(2-Methyl-morpholin-4-yl)-phenyl]ethyl}-3-phenyl-acrylamide
Mixture of (S)-1-[3-(2-methyl-morpholin-4-yl)-phenyl]-ethylamine hydrochloric acid salt, Preparation 41(30 mg, 0.10 mmol), cinnamic acid (17 mg, 0.11 mmol), EDC (40 mg, 0.20 mmol), DMAP (13 mg, 0.10 mmol), triethylamine (0.06 ml, 0.40 mmol) in dichloromethane (0.5 mL) was stirred at room temperature overnight. The reaction mixture was purified by filtering through 2 g silica-gel syringe with 70% ethyl acetate/hexanes. The filtrate was concentrated under vacuum to provide the title compound as a yellow solid.

reactant | (S)-1-[3-(2-methyl-morpholin-4-yl)-phenyl]-ethylamine hydrochloric acid salt | Cl.CC1CN(CCO1)C=1C=C(C=CC1)[C@H](C)N
reactant | cinnamic acid | 0.11 mmol, 17 mg | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | EDC | 0.20 mmol, 40 mg
reactant | triethylamine | 0.40 mmol, 0.06 ml | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.10 mmol, 13 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | (S)-N-{1-[3-(2-Methyl-morpholin-4-yl)-phenyl]ethyl}-3-phenyl-acrylamide | CC1CN(CCO1)C=1C=C(C=CC1)[C@H](C)NC(C=CC1=CC=CC=C1)=O | C22H26N2O2
